US06586475B1
Methyl 4-(4-biphenylylmethoxy)phenylacetate
A solution of 4-biphenylmethanol (800 g) in DMF (2.4 l) as cooled to 0° C and thionyl chloride (380 ml) was added to the solution for 40 min. The temperature of the reaction mixture was raised to 30±2° C. and stirring was continued for additional one hr. Methyl 4-hydroxyphenylacetate (722 g) was added and stirring was continued for 20 min at this temperature. 28% Sodium methoxide (2.93 kg) was added to the solution for 70 min and stirring was continued for 6 hr while the temperature of the reaction mixture was maintained at 50±2° C. Water (3.21) was added to the reaction mixture for 25 min while the temperature of the reaction mixture was maintained at 50±2° C. which was stirred for additional one hr at same temperature and cooled to room temperature. The precipitate was collected by filtration and washed with methanol (1.6 l) and water (6.41) sequentially to obtain the titled compound (1119 g).

reactant | 4-biphenylmethanol | 800 g | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
reactant | thionyl chloride | 380 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Methyl 4-hydroxyphenylacetate | 722 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | Sodium methoxide | 2.93 kg | C[O-].[Na+]
solvent | DMF | 2.4 l | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | Methyl 4-(4-biphenylylmethoxy)phenylacetate | 1119 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | C22H20O3
